US07119216B2
The supported ruthenium catalyst was evaluated in the metathesis of methyloleate with ethylene, in the manner described in Example 1, with the exception that the polymer-supported catalyst was weighed into the reactor first and swollen with 1 g of anhydrous, degassed toluene. A quantity of polymer-supported catalyst was used that correlated to a mole ratio of methyloleate to ruthenium of 4,500/1. Ethylene pressure was 60 psig (414 kPa); temperature was 50° C. Under these conditions, the supported catalyst achieved at 20 h a 1-decene yield of 44.6 percent, and a methyl-9-decenoate yield of 43.4 percent. The results indicate that the chelated ruthenium complex can be supported on a catalyst support and used as a heterogeneous catalyst in the olefin metathesis process of this invention.

reactant | methyloleate | COC(CCCCCCC\C=C/CCCCCCCC)=O | C19H36O2
reactant | ethylene | C=C | C2H4
catalyst | ruthenium | [Ru] | Ru
product | 1-decene | yield of 44.6 percent | C=CCCCCCCCC | C10H20
